US04012380
Benzhydryl 7-(2-formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylate.
To a cooled (5° C.), stirred solution of 0.270 g. of benzhydryl 7-amino-3-acetyl-3-cephem-4-carboxylate in 20 ml. of dry tetrahydrofuran was added 0.0612 g. of sodium bicarbonate and dropwise, a solution of 0.144 g. of 2-formyloxy-2-phenylacetyl chloride in 2 ml. of tetrahydrofuran. The reaction mixture was allowed to stir with cooling for 30 minutes after which time it was transferred to a separatory funnel with the aid of cold ethyl acetate and washed with water, and brine (2X) and then dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness provided a residue which was chromatographed on silica gel using a toluene-ethyl acetate gradient to give 0.194 g. (51.2 percent) of the title product as a white froth:

reactant | benzhydryl 7-amino-3-acetyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-formyloxy-2-phenylacetyl chloride | C(=O)OC(C(=O)Cl)C1=CC=CC=C1 | C9H7ClO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzhydryl 7-(2-formyloxy-2-phenylacetamido)-3-acetyl-3-cephem-4-carboxylate | 51.2 percent | C(=O)OC(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=CC=CC=C1 | C31H26N2O7S
